US06998407B2
Sodium hydride (0.77 g of a 60% suspension in mineral oil) was washed with anhydrous hexane (2×10 mL) under a nitrogen atmosphere and then suspended in anhydrous N,N-dimethylformamide (DMF, 30 mL). A solution of indole-6-carboxylic acid (1.01 g) in DMF (20 mL) was added over 5 min and the solution stirred at room temperature for an additional 30 min. Iodomethane (1.2 mL) was added and the mixture stirred for 1 h. The solution was poured onto ice and allowed to warm up to room temperature. The resulting solid was collected by filtration, washed with water and dried under high vacuum to afford methyl 1-methylindole-6-carboxylate. A potion of this material (0.33 g) was dissolved in methanol (7 mL) and DMF (1 mL) and treated with 5N aqueous sodium hydroxide solution (2 mL). The mixture was heated at reflux for 22 h and then allowed to cool to ambient temperature. The solvent was evaporated under reduced pressure. The residue was dissolved in water (15 mL) and the solution was cooled in an ice-bath and acidified to pH 4 with concentrated HCl. The precipitated solid was collected by filtration, washed with water and dried under high vacuum to produce 1-methylindole-6-carboxylic acid. A portion of this material (0.27 g) was dissolved in DMF (4 mL), and treated with diisopropylethylamine (1.6 mL) and ammonia (12 mL of a 0.5M solution in dioxane) under a nitrogen atmosphere. O-Benzotriazol-N,N,N′, N′-tetramethyluronium hexafluorophosphate (0.64 g) was added and the mixture stirred at room temperature for 20 h. The solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate (50 mL), and the solution washed with water, 1M sodium carbonate solution, and brine, and dried over magnesium sulfate. Evaporation of the solvent under reduced pressure produced 1-methylindole-6-carboxamide as an off-white solid. A portion of this material (0.04 g) was suspended in anhydrous toluene (1.0 mL) under a nitrogen atmosphere, and treated with 3,5-bis(trifluoromethylphenyl isocyanate (42 μL). The mixture was heated at reflux for 2 h and then allowed to cool to room temperature. The solid was collected by filtration, washed with petroleum ether, dichloromethane and methanol and dried under high vacuum to yield the title compound.

reactant | diisopropylethylamine | 1.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ammonia | N | H3N
reactant | O-Benzotriazol-N,N,N′, N′-tetramethyluronium hexafluorophosphate | 0.64 g | CN(C)C(=[N+](C)C)ON1C2=CC=CC=C2N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 4 mL | CN(C=O)C | C3H7NO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-methylindole-6-carboxamide | CN1C=CC2=CC=C(C=C12)C(=O)N | C10H10N2O
